* Schematics Netlist *
VS	1	0	AC	1	PWL(0US 0V  0.1US 1V)
*
R1	2	0	10K
R2	2	4	10K
XOP	1 2	4	OPAMP1	
*
* OPAMP MACRO MODEL, SINGLE-POLE 
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   output
*                   |   |   |
.SUBCKT OPAMP1      1   2   6
* INPUT IMPEDANCE
RIN	1	2	10MEG
* DC GAIN (100K) AND POLE 1 (10HZ)
EGAIN	3 0	1 2	100K
RP1	3	4	1K
CP1	4	0	15.915UF
* OUTPUT BUFFER AND RESISTANCE
EBUFFER	5 0	4 0	1
ROUT	5	6	10
.ENDS

CC1 _N_3 _N_2 0.00000001
CC2 _N_11 _N_10 0.0001
CC3 _N_13 _N_12 0.0001
XOP1 0 _N_2 _N_3  OPAMP1
XOP2 0 _N_10 _N_11  OPAMP1
XOP3 0 _N_12 _N_11  OPAMP1
XOP4 0 _N_5 _N_4  OPAMP1
XOP5 0 _N_8 _N_6  OPAMP1
BOpAmp3 _N_6 0 V=5 < 1000*(v(0,0) - v(_N_8,0)) ? 5 : 1000*(v(0,0) - v(_N_8,0)) < 0 ? 0 : 1000*(v(0,0) - v(_N_8,0))
BOpAmp4 _N_11 0 V=5 < 1000*(v(0,0) - v(_N_10,0)) ? 5 : 1000*(v(0,0) - v(_N_10,0)) < 0 ? 0 : 1000*(v(0,0) - v(_N_10,0))
BOpAmp5 _N_13 0 V=5 < 1000*(v(0,0) - v(_N_12,0)) ? 5 : 1000*(v(0,0) - v(_N_12,0)) < 0 ? 0 : 1000*(v(0,0) - v(_N_12,0))
RR1 _N_6 _N_2 10
RR15 _N_2 _N_3 1000k
RR16 _N_5 _N_4 1k
RR2 _N_9 _N_13 998
RR26 _N_12 _N_13 1
RR3 _N_9 0 2
RR35 _N_10 _N_11 1
RR4 _N_9 _N_5 1k
RR5 _N_8 _N_4 1k
RR6 _N_8 _N_7 1k
RR7 _N_6 _N_8 1k
RR8 _N_3 _N_10 1
RR9 _N_11 _N_12 1
VVPul1 _N_7 0  EXP(9642.654 0 0 0 0 0.01)

 .tran 0.0001 0.05 0.001 0.0001
* VIEW RESULTS
.control
run
*plot V(_N_8)



wrdata plot.dat V(_N_7)
.endc
.end


