* C:\users\aayush\My Documents\LTspiceXVII\Draft2.asc
R1 N002 N005 10
R2 N003 N002 1e6
C1 N003 N002 1e-8
V1 P001 0 1 AC 0 0
V2 N001 0 500
V3 0 P002 500
XU2 0 N002 N001 P002 N003 LT1001
R_1 N010 N003 998
R_2 0 N010 2
XU1 N007 N006 P003 P004 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R3 N007 P001 100
R4 N008 N007 100
R9 0 N006 1k
R6 N004 N006 100
R7 N004 0 100
V4 P003 0 500
V5 0 P004 500
R5 P005 N004 100
R8 P006 N005 100
R10 N010 N009 100
R11 N009 N008 100
XU3 0 P005 P007 P008 P006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 0 N009 P009 P010 N008 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V6 P007 0 500
V7 0 P008 500
V8 0 P010 500
V9 P009 0 500
.tran 0 .04 0.3micro startup
.lib LTC.lib
.lib UniversalOpamps2.sub
.backanno
.end
