EE18BTECH11029_2.NET - OPAMP CLOSED-LOOP STEP RESPONSE 
* STEP INPUT
VS	1	0	AC	1	PWL(0US 0V   0.1US 1V   10US 1V)

XOP	1 4 	4	OPAMP1	


.SUBCKT OPAMP1      1   2 7
* INPUT IMPEDANCE
RIN	1	2	100MEG
*FOR FIRST POLE
G1      0       3  VALUE = { 1e-2*V(1,2)}
RP1     3      0   1e6
CP1     3      0   0.795e-9
*FOR SECOND POLE
G2      0       4  3 0 1e-6
RP2     4      0   1e6
CP2     4      0   0.419e-14
*FOR THIRD POLE
G3      0       5  4 0 1e-6
RP3     5      0   1e6
CP3     5      0   0.795e-13

* OUTPUT BUFFER AND RESISTANCE
EBUFFER	6 0	5 0	1
ROUT	6	7	10
.ENDS

* ANALYSIS
.AC 	DEC 	10 10 10MEG
.TRAN 	0.01US  30US
*

* VIEW RESULTS
.control
run
plot V(4)
*wrdata ee18btech11029_2.dat V(4)
.endc 

.end

