I-V Characteristics of BC547
*Including the BC547 model file
.MODEL Qmod NPN((BF=100)

vin 1 0 dc 5v
q1 2 1 0 Qmod

v1 3 2 dc 0v

rf 1 3 100K
rl 3 4 10K

Vcc 4 0 dc 5V

*DC ANALYSIS
.dc vin 0 5 0.001
*

* VIEW RESULTS
.control
run

plot v1#branch vs v(1)
wrdata new_1.dat v(1)
wrdata new_2.dat v1#branch
.endc 

.end
