*DC GAIN...
Vin vin 0 1
R1 vin va 100
R2 va v1 1k
Vd1 vdd 0 15
Vd2 0 -vdd 15
XU1 0 va vdd -vdd v1 LM741
R3 v1 vb 1k
R4 vb v2 1k
C1 vb v2 0.8005n
XU2 0 vb vdd -vdd v2 LM741
R5 v2 vc 1k 
R6 vc v3 1k
XU3 0 vc vdd -vdd v3 LM741
R7 v3 vd 1k
C2 vd vo 1.599n
R8 vb vo 1k
XU4 0 vd vdd -vdd vo LM741
.include LM741.MOD
.op 
.control
print V(vo)
.endc
.end


