* C:\Users\psiit\OneDrive\Documents\ee17btech11031.asc
R1 N001 N003 5.6k
R2 N003 N002 56k
R3 N002 N004 10k
V1 N004 0 0.7
V2 N001 0 15
Q1 N003 N002 0 0 NPN
.model NPN NPN
.model PNP PNP
.lib C:\Users\psiit\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op 100ms
.backanno
.end
