
XU1 N001 N004 N002 N003 Vout LM741/NS
C1 N001 0 1.6n
R1 N001 P001 100000
C2 P001 Vout 16n
R2 P001 P002 10000
Vs P002 0 PULSE(0,0.1v)
V1 0 N003 15
V2 N002 0 15
R3 N004 0 10000
R4 Vout N004 11300
.tran 0.01 1 UIC
.include LM741.MOD
.control
run
*plot V(Vout)
wrdata ee18btech11030.dat V(Vout)
.end

