
R2 N003 N001 100K
R P001 N003 10K
R1 N001 N002 4.14k
R2 N002 0 6.86k
C1 N001 0 1.6n
C N002 N003 16n
V1 P001 0 PULSE(0 10v)
.tran 0.01us 1ms UIC
.control
run
*plot V(N001)
wrdata ee18btech11030_1.dat V(N001)
.end
