* Three stage oscillator
XU1 0 N005 N001 N002 Vout LM741/NS
XU2 0 N004 N001 N002 N007 LM741/NS
XU3 0 N003 N001 N002 N006 LM741/NS
V1 0 N002 15
V2 N001 0 15
R1 N004 N006 1k
R2 N005 N007 1k
R3 N003 Vout 1k
R4 N006 N003 2k
R5 N007 N004 2k
R6 Vout N005 2k
C1 N006 N003 79.577p
C2 N007 N004 79.577p
C3 Vout N005 79.577p
.tran 0 0.00426 0.00422 0.01ms
.include LM741.MOD
.control
run
wrdata ee18btech11031_2.dat V(Vout)
.endc
.end
