* C:\Users\varsh\OneDrive\Desktop\Spice64\bin\es17btech11002.asc
R1 N001 0 1k
R2 Vout N001 2030
V1 Vcc 0 15
V2 0 -Vcc 15
XU1 N002 N001 Vcc -Vcc Vout LM741/NS
R3 N002 0 250
R4 Vout N003 250
C1 N003 0 1m
C2 N003 N002 1m
.include C:\Users\varsh\OneDrive\Desktop\LM741.MOD
.tran 0.01 150 UIC
.include LM741.MOD
.control
run
wrdata ee18btech11047.dat V(Vout)
.endc
.end
