* C:\Users\varsh\OneDrive\Desktop\Spice64\bin\es17btech11009.asc
R1 N001 0 10k
R2 X N001 10k
R3 N003 Vout 10k
R4 X N003 9090.9
C1 N003 0 0.00001
V1 Vcc 0 5
V2 0 -Vcc 5
C2 Vout N002 0.00001
R5 N002 X 5k
XU1 0 N002 Vcc -Vcc Vout LM741/NS
XU2 N003 N001 Vcc -Vcc X LM741/NS
.tran 0.01 20 UIC
.include LM741.MOD
.control
run
wrdata es17btech11009.dat V(Vout)
.endc
.end
